US08563617B2
36.1 tert-Butyl [1-(4-chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate
Tert-butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate (180 mg, 0.464 mmol, prepared analogously to tert-butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate, cf. Example 34.2 and potassium hydroxide (1.4 g, 25 mmol) were suspended in acetonitrile (4 mL). After stirring the two phase system for 45 min at room temperature the reaction mixture was cooled to −15° C. and a solution of 2-chloro-2,2-difluoro-1-phenylethanone (442 mg, 2.32 mmol) in acetonitrile (1 mL) was added dropwise over 30 min. The reaction mixture was warmed to room temperature and then heated at 80° C. for 2 h. The reaction mixture was cooled to room temperature and diluted with ethyl acetate. The aqueous layer was extracted with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated in vacuo. The crude product was purified by flash chromatography (dichloromethane, silica gel). Yield: 30 mg (0.069 mmol, 15%).

reactant | Tert-butyl [1-(4-chlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=C1 | C22H26ClNO3
reactant | tert-butyl [1-(3,4-dichlorobenzyl)-7-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC=1C=C(CC2C(CCC3=CC=C(C=C23)O)NC(OC(C)(C)C)=O)C=CC1Cl | C22H25Cl2NO3
reactant | potassium hydroxide | 25 mmol, 1.4 g | [OH-].[K+]
reactant | 2-chloro-2,2-difluoro-1-phenylethanone | 2.32 mmol, 442 mg | ClC(C(=O)C1=CC=CC=C1)(F)F | C8H5ClF2O
solvent | acetonitrile | 4 mL | C(C)#N | C2H3N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl [1-(4-chlorobenzyl)-7-(difluoromethoxy)-1,2,3,4-tetrahydronaphthalen-2-yl]carbamate | ClC1=CC=C(CC2C(CCC3=CC=C(C=C23)OC(F)F)NC(OC(C)(C)C)=O)C=C1 | C23H26ClF2NO3
